US07241798B2
Mixture of 4 isomers, one being methanesulfonic acid (1S,2S)-3-{[(R)-1-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-methyl-carbamoyl}-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-ylmethyl ester
To a stirred solution of Intermediate 35, 4 isomers, one being (1S,2S)-1-Hydroxymethyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid [(R)-1-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-methyl-amide (0.28 g, 0.57 mmol) and triethylamine (0.13 mL, 0.96 mmol) in methylene chloride (6 mL) at 0° C. was added methanesulfonyl chloride (0.06 mL, 0.79 mmol). The reaction was allowed to warm to room temperature and stir for 2 hours. The reaction was washed with cold 0.5N HCl and the phases separated. The methylene chloride was washed with cold 0.5N NaOH, washed with brine, and dried over sodium sulfate, filtered and concentrated to give the title compound as a pink foam (0.32 g, quantitative yield). This material was processed without further purification.

reactant | (1S,2S)-1-Hydroxymethyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid [(R)-1-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-methyl-amide | 0.57 mmol, 0.28 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)N(C(=O)N1[C@H]([C@@]2(CC2C1)CO)C1=CC=CC=C1)C)(F)F | C24H24F6N2O2
reactant | triethylamine | 0.96 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.79 mmol, 0.06 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid (1S,2S)-3-{[(R)-1-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-methyl-carbamoyl}-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-ylmethyl ester | 0.32 g, quantitative yield | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)N(C(=O)N1[C@H]([C@@]2(CC2C1)COS(=O)(=O)C)C1=CC=CC=C1)C)(F)F | C25H26F6N2O4S
